US06248765B1
2-(Bicyclo[2.2.1]hept-2-yl)ethyl 3-(1H-imidazol-4-yl)propyl ether
5 mmol of sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate and 5 mmol of 2-(bicyclo[2.2.1]hept-2-yl)ethane chloride are treated as described in Example 5.

reactant | sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | 2-(bicyclo[2.2.1]hept-2-yl)ethane chloride | 5 mmol | [Cl-].C12C(CC(CC1)C2)CC
product | 2-(Bicyclo[2.2.1]hept-2-yl)ethyl 3-(1H-imidazol-4-yl)propyl ether | N1C=NC(=C1)CCCOCCC1C2CCC(C1)C2 | C15H24N2O
